US06080772
3-Phenyl-1,2,4-triazole-5-thione (E. Hogarth, J. Chem. Soc. (1949) 1163) was prepared by first reacting benzoyl chloride with thiosemicarbazide in pyridine at 0° C. to give benzoyl thiosemicarbazide. Benzoyl thiosemicarbazide was treated with potassium hydroxide or potassium or sodium ethoxide in ethanol to give 3-phenyl-1,2,4-triazole-5-thione. 3-Phenyl-1,2,4-triazole-5-thione (1.77 g) was then dissolved in 50 mL of methanol and treated with 0.57 g of 95% sodium methoxide, and then with 2-bromo-5-nitrothiazole (2.09 g). The mixture was stirred at room temperature for 2 hours and the precipitated sodium bromide was removed by filtration. The methanol was evaporated and the product crystallized from ethanol and water to give 1.5 g of 3-[(5-nitrothiazol-2-yl)mercapto]-5-phenyl-1,2,4-triazole as colorless crystals, MP 155-157° C.

reactant | Benzoyl thiosemicarbazide | C(C1=CC=CC=C1)(=O)NNC(=S)N | C8H9N3OS
reactant | potassium hydroxide | [OH-].[K+]
reactant | potassium | [K] | K
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 3-phenyl-1,2,4-triazole-5-thione | C1(=CC=CC=C1)C=1N=NC(N1)=S | C8H5N3S
